US09035058B2
Synthesis of 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) hydroxide
1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) bromide was subsequently converted to a hydroxide solution by column ion-exchange using an excess of MTO-DOWEX SBR LCNG(OH) resin. Distilled water was eluted through the column until the pH was less than 11 and the resulting solution concentrated to the desired concentration, typically ˜20 wt %. The concentration was confirmed by acid-base titration and by 1H NMR.

reactant | 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) bromide | [Br-].C(CCCCC[N+]1(CCCCC1)C)[N+]1(CCCCC1)C.[Br-]
reactant | hydroxide | [OH-]
product | 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) hydroxide | [OH-].C(CCCCC[N+]1(CCCCC1)C)[N+]1(CCCCC1)C.[OH-] | InChI=1S/C18H38N2.2H2O/c1-19(15-9-5-10-16-19)13-7-3-4-8-14-20(2)17-11-6-12-18-20;;/h3-18H2,1-2H3;2*1H2/q+2;;/p-2
